US05504244
A solution of 3-(4-butoxy-2-hydroxybenzoyl)benzoic acid (0.85 g), prepared as described in Example 26, is heated under reflux in a mixture of 2N sodium hydroxide (2.8 ml) and ethanol (10 ml) for 30 minutes. The reaction mixture is then cooled to 60° C. and methyl iodide (10 ml) is added. The resulting mixture was heated at 60° for 72 hours, cooled, acidified with concentrated hydrochloric acid and diluted with water (100 ml). The product is extracted with ether (3×25 ml). The extracts are dried over magnesium sulfate, filtered and evaporated to dryness. 2N Sodium hydroxide (2 ml) is added to the residue and the mixture heated under reflux for 6 hours. The reaction mixture is acidified with concentrated hydrochloric acid, diluted with water (100 ml), and extracted with ether (3×25 ml). The residue is chromatographed on silica (hexane:ether:acetic acid at 90:10:1) to yield 3-(4-butoxy-2-methoxybenzoyl)benzoic acid (0.46 g), m.p. 144°-145° C.

reactant | 3-(4-butoxy-2-hydroxybenzoyl)benzoic acid | 0.85 g | C(CCC)OC1=CC(=C(C(=O)C=2C=C(C(=O)O)C=CC2)C=C1)O | C18H18O5
reactant | methyl iodide | 10 ml | CI | CH3I
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 2N, 2.8 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | 3-(4-butoxy-2-methoxybenzoyl)benzoic acid | 0.46 g | C(CCC)OC1=CC(=C(C(=O)C=2C=C(C(=O)O)C=CC2)C=C1)OC | C19H20O5
